US07781436B2
2-{6-Chloro-3-[4-(2,6-dimethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-N-methyl-acetamide
Analogous to general procedure II, the alkylation of (6-chloro-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone (prepared herein) with (commercially available) 2-chloro-N-methyl-acetamide gave the title compound.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC(CC1)C1=C(C=CC=C1OC)OC | C22H23ClN2O3
reactant | 2-chloro-N-methyl-acetamide | ClCC(=O)NC | C3H6ClNO
product | 2-{6-Chloro-3-[4-(2,6-dimethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-N-methyl-acetamide | ClC1=CC=C2C(=CN(C2=C1)CC(=O)NC)C(=O)N1CCC(CC1)C1=C(C=CC=C1OC)OC | C25H28ClN3O4
